US08492372B2
N-{[5-FLUORO-7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}-2,2-DIMETHYLPROPAN-1-AMINE
Preparation according to Example 34 using 2-(bromomethyl)-5-fluoro-7-(methylsulfonyl)-4H-1,3-benzodioxine (8.5 mg, 0.026 mmol), 2,2-dimethylpropan-1-amine (0.5 ml) and EtOH (3 ml). MS m/z (rel. intensity, 70 eV) 331 (M+, 1), 274 (74), 203 (20), 141 (32), 100 (bp), 72 (74).

reactant | 2-(bromomethyl)-5-fluoro-7-(methylsulfonyl)-4H-1,3-benzodioxine | 0.026 mmol, 8.5 mg | BrCC1OCC2=C(O1)C=C(C=C2F)S(=O)(=O)C | C10H10BrFO4S
reactant | 2,2-dimethylpropan-1-amine | 0.5 ml | CC(CN)(C)C | C5H13N
solvent | EtOH | 3 ml | CCO | C2H6O
product | N-{[5-FLUORO-7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}-2,2-DIMETHYLPROPAN-1-AMINE | FC1=CC(=CC=2OC(OCC21)CNCC(C)(C)C)S(=O)(=O)C | C15H22FNO4S
